US07576115B2
Synthesis of methyl 2-fluoro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate
From 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (59.0 mg, 0.215 mmol), methyl 2-fluoro-4-hydrazinocarbonylbenzoate (45.6 mg, 0.215 mmol) and tosylic acid monohydrate (12.3 mg, 0.0645 mmol), 94.9 mg of the desired product was obtained in the same manner as in Synthetic Example 65 as a pale yellow solid (yield 94%).

reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.215 mmol, 59.0 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | methyl 2-fluoro-4-hydrazinocarbonylbenzoate | 0.215 mmol, 45.6 mg | FC1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9FN2O3
reactant | tosylic acid monohydrate | 0.0645 mmol, 12.3 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
product | methyl 2-fluoro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | 94.9 mg | FC1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C25H25FN2O4S
